US20010001799A1
555 mg of (Z)-(RS)-(2,5-dimethoxy-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetic acid were stirred under hydrogen in 8 ml of acetic acid and 16 ml of water in the presence of Raney-nickel. After the addition 13 ml of acetic acid the solution was filtered clear and evaporated in a vacuum. The residue was triturated in water and then in methanol, filtered off under suction and dried. There were obtained 404 mg of (RS)-(4-carbamimidoyl-phenylamino)-(2,5-dimethoxy-phenyl)-acetic acid, m.p. 310° C., MS: 330 (M+H)+.

reactant | (Z)-(RS)-(2,5-dimethoxy-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetic acid | 555 mg | COC1=C(C=C(C=C1)OC)C(C(=O)O)NC1=CC=C(C=C1)/C(/NO)=N/[H] | C17H19N3O5
reactant | water | 16 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
catalyst | Raney-nickel | [Ni] | Ni
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
product | (RS)-(4-carbamimidoyl-phenylamino)-(2,5-dimethoxy-phenyl)-acetic acid | 404 mg | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C=CC(=C1)OC)OC | C17H19N3O4
